US07576115B2
Synthesis of 5-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-thiophenecarboxylic acid
Methyl 5-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-thiophenecarboxylate (85 mg, 0.18 mmol) synthesized in Synthetic Example 98 was dissolved in isopropyl alcohol (1.8 ml), and 0.2 M sodium hydroxide aqueous solution (1.95 ml, 0.39 mmol) was added thereto, following by stirring overnight at room temperature. Then 0.2 M sodium hydroxide aqueous solution (0.96 ml, 0.19 mmol) was added thereto, following by stirring overnight at 45° C. After completion of the stirring, 1 M hydrochloric acid (0.58 ml, 0.58 mmol) was added. The precipitated solid was filtered to obtain 2.7 mg of the desired product as a pale yellow solid (yield 3%).

reactant | Methyl 5-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-thiophenecarboxylate | 0.18 mmol, 85 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC=C(S1)C(=O)OC)O | C23H25N3O3S3
reactant | sodium hydroxide | 0.39 mmol, 0.2 M, 1.95 ml | [OH-].[Na+]
reactant | sodium hydroxide | 0.19 mmol, 0.2 M, 0.96 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.58 mmol, 1 M, 0.58 ml | Cl | ClH
solvent | isopropyl alcohol | 1.8 ml | C(C)(C)O | C3H8O
product | 5-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}-2-thiophenecarboxylic acid | 2.7 mg, yield 3% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC=C(S1)C(=O)O)O | C22H23N3O3S3
